US07432284B2
2-butyl-5-chloro-7-fluoro-6-methoxy-1-oxo-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid ethyl ester (263 mg, 0.74 mmol) was dissolved in AcOH (6 mL) then treated with 6N HCl (6 mL). This solution was heated with stirring at 80° C. for 75 minutes, then at 100° C. for 2 hours. After cooling to room temperature the mixture was partitioned between EtOAc/5% NaHCO3. The organic phase was washed with brine, dried over MgSO4, filtered and evaporated under vacuum. Two successive purifications of the crude product by Biotage™ (Charlottesville, Va.) flash chromatography on a 40S (4×7.5 cm) silica gel columns, eluting with EtOAc/hexane yielded 2-butyl-5-chloro-7-fluoro-6-methoxy-3,4-dihydro-2H-naphthalen-1-one and recovered starting material.

reactant | 2-butyl-5-chloro-7-fluoro-6-methoxy-1-oxo-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid ethyl ester | 0.74 mmol, 263 mg | C(C)OC(=O)C1(C(C2=CC(=C(C(=C2CC1)Cl)OC)F)=O)CCCC | C18H22ClFO4
reactant | HCl | 6N, 6 mL | Cl | ClH
solvent | AcOH | 6 mL | CC(=O)O | C2H4O2
product | 2-butyl-5-chloro-7-fluoro-6-methoxy-3,4-dihydro-2H-naphthalen-1-one | C(CCC)C1C(C2=CC(=C(C(=C2CC1)Cl)OC)F)=O | C15H18ClFO2
